US06890942B2
4-(4-Acetylamino-benzenesulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with N-(4-sulfamoyl-phenyl)-acetamide as described in the preparation of compound 1 to yield the title compound. 1H NMR (500 MHz, DMSO) δ: 2.07 (s, 3), 3.60 (s, 3), 4.71 (s, 2), 6.26 (s, 1), 6.94 (m, 2), 7.21 (m, 2), 7.72 (m, 2), 7.86 (m, 2).

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | N-(4-sulfamoyl-phenyl)-acetamide | S(N)(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C8H10N2O3S
product | 4-(4-Acetylamino-benzenesulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)NC(C)=O)O)=O)OC)C=C1 | C20H20FN3O7S
